US07125990B2
[8-(2,4-Dichlorophenyl)-2-trifluoromethyl-8H-1,3a,8-triaza-cyclopenta[α]inden-3-yl]-methanol, scheme 2: (I)
To a solution of 8-(2,4-Dichloro-phenyl)-2-trifluoromethyl-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid ethyl ester (490 mg, 1.11 mmol) in methylene chloride (20 mL), was added at 0° C. a toluene solution of DIBAL-H (5.55 mL, 5.55 mmol). After stirring at 0° C. for 75 min, the reaction mixture was cooled down to −78° C. and methanol (2.2 mL) was added dropwise, followed by additions of ground Na2SO4-10H2O (15.2 g) and celite (2.6 mL). The resulting mixture was warmed up to room temperature in 4 h. After filtration, the solvents were removed in vacuo to afford the title compound as an off white solid (443 mg, 100% yield). 1H NMR (CDCl3, 500 MHz) δ 8.00–7.93 (m, 1H), 7.65 (d, J=2.2 Hz, 1H0, 7.57 (d, J=7.4 Hz, 1H), 7.46 (dd, J=8.6, 2.3 Hz, 1H), 7.37–7.33 (m, 2H), 7.08–7.05 (m, 1H); Mass spec.: 400.02 (MH+).

reactant | 8-(2,4-Dichloro-phenyl)-2-trifluoromethyl-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid ethyl ester | 1.11 mmol, 490 mg | C(C)OC(=O)C1=C(N=C2N1C=1C=CC=CC1N2C2=C(C=C(C=C2)Cl)Cl)C(F)(F)F | C19H12Cl2F3N3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | DIBAL-H | 5.55 mmol, 5.55 mL | CC(C)C[AlH]CC(C)C
reactant | methanol | 2.2 mL | CO | CH4O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | [8-(2,4-Dichlorophenyl)-2-trifluoromethyl-8H-1,3a,8-triaza-cyclopenta[α]inden-3-yl]-methanol | ClC1=C(C=CC(=C1)Cl)N1C=2N(C=3C=CC=CC13)C(=C(N2)C(F)(F)F)CO | C17H10Cl2F3N3O
